US09079866B2
5-[2-Fluoro-4-(2-methoxypyridin-3-yl)phenyl]pyrazin-2-amine
The title compound was prepared using methods analogous to those described in Example 369 using (2-(methoxy)pyridin-3-yl)boronic acid and 5-(4-bromo-2-fluorophenyl)pyrazin-2-amine in Step B. MS (ESI): mass calcd. for C16H13FN4O, 296.11; m/z found, 297.1 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.62-8.56 (m, 1H), 8.19 (dd, J=1.9, 5.0, 1H), 8.12 (d, J=1.5, 1H), 8.01-7.94 (m, 1H), 7.70-7.65 (m, 1H), 7.48-7.41 (m, 2H), 7.00 (dd, J=5.0, 7.31, 1H), 4.66 (s, 2H), 4.00 (s, 3H).

reactant | (2-(methoxy)pyridin-3-yl)boronic acid | COC1=NC=CC=C1B(O)O | C6H8BNO3
reactant | 5-(4-bromo-2-fluorophenyl)pyrazin-2-amine | BrC1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C10H7BrFN3
product | 5-[2-Fluoro-4-(2-methoxypyridin-3-yl)phenyl]pyrazin-2-amine | FC1=C(C=CC(=C1)C=1C(=NC=CC1)OC)C=1N=CC(=NC1)N | C16H13FN4O
